US04898867
A 0.7 g quantity of 3-(4-chlorobenzyl)-1-ethoxycarbonylmethyl-5,6-dimethylthieno[2,3-d]pyrimidin-2,4(1H, 3H)-dione (Compound IV-1) prepared in Reference Example 5 was dissolved in 30 ml of methanol. To the solution was added 0.3 g of sodium hydroxide dissolved in 2 ml of water. The mixture was allowed to react at 60° C. for 30 minutes, and then the reaction mixture was concentrated. Diluted hydrochloric acid was added thereto with ice-cooling to acidify the resulting solution. The solution was filtrated and the separated crystals were recrystallized from methanol, giving 0.4 g of 1-carboxymethyl-3-(4-chlorobenzyl)-5,6-dimethylthieno[2,3-d]pyrimidin-2,4(1H, 3H)-dione having m.p. of 173° to 176° C. in a yield of 61%.

reactant | 3-(4-chlorobenzyl)-1-ethoxycarbonylmethyl-5,6-dimethylthieno[2,3-d]pyrimidin-2,4(1H, 3H)-dione | ClC1=CC=C(CN2C(N(C3=C(C2=O)C(=C(S3)C)C)CC(=O)OCC)=O)C=C1 | C19H19ClN2O4S
reactant | sodium hydroxide | 0.3 g | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | 1-carboxymethyl-3-(4-chlorobenzyl)-5,6-dimethylthieno[2,3-d]pyrimidin-2,4(1H, 3H)-dione | 0.4 g, yield of 61% | C(=O)(O)CN1C(N(C(C2=C1SC(=C2C)C)=O)CC2=CC=C(C=C2)Cl)=O | C17H15ClN2O4S
